US05750531
Step 3: (S)-5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.82 ml, 7.35 mmol) was added to a mixture solution of (S)-5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(1.0 g, 3.5 mmol) obtained in the above Step 2 and dimethylformamide (10 ml), 1.0 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 7.35 mmol, 0.82 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | (S)-5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 3.5 mmol, 1.0 g | CC=1C(=NC(=NC1C)N1[C@H](C2=CC=CC=C2CC1)C)Cl | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.0 g, Yield: 69.2% | Cl.CC=1C(=NC(=NC1C)N1[C@H](C2=CC=CC=C2CC1)C)NC1=C(C=C(C=C1)F)C | InChI=1S/C23H25FN4.ClH/c1-14-13-19(24)9-10-21(14)26-22-15(2)16(3)25-23(27-22)28-12-11-18-7-5-6-8-20(18)17(28)4;/h5-10,13,17H,11-12H2,1-4H3,(H,25,26,27);1H/t17-;/m0./s1
